US03975375
C. 1-Mesyl-2-oxo-1,3-diaza-cyclohexane ##SPC94##
This compound was produced as described in Example 35 C from 10 parts by weight of 1,3-diaza-cyclohexan-2-one, 49 parts by weight of trimethylchlorosilane and 30 parts by weight of mesylchloride. The reaction product was recrystallized from acetone at low temperature and thereafter from acetone/ethanol.

reactant | 1,3-diaza-cyclohexan-2-one | N1C(NCCC1)=O | C4H8N2O
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | mesylchloride | S(=O)(=O)(C)Cl | CH3ClO2S
product | 1-Mesyl-2-oxo-1,3-diaza-cyclohexane | S(=O)(=O)(C)N1C(NCCC1)=O | C5H10N2O3S
